US06544985B2
A sample of 3-(5-methyl-thiazol-4-yl)-benzoic acid methyl ester (1.05 g) was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give crude 3-[3-(5-methyl-thiazol-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (1.9 g) as a pale-yellow oil.

reactant | 3-(5-methyl-thiazol-4-yl)-benzoic acid methyl ester | 1.05 g | COC(C1=CC(=CC=C1)C=1N=CSC1C)=O | C12H11NO2S
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-[3-(5-methyl-thiazol-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.9 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1N=CSC1C)=O | C17H19NO3S
